US09376422B2
Step 2: Synthesis of methyl 5-chloro-3-(cyclohexylthio)-2-methylbenzoate
To a stirred solution of methyl 3-bromo-5-chloro-2-methylbenzoate (1.0 g, 3.79 mmol) in 1,4-dioxane was added N,N-diisopropyl ethylamine (0.98 g, 7.59 mmol). The reaction mixture was purged with argon for 20 min. then Pd(OAc)2 (0.042 g, 0.189 mmol), Xanthphos (0.22 g, 0.38 mmol) and cyclohexylthiol (0.44 g, 3.79 mmol) was added to it sequentially and again purged with argon for 10 min. The reaction mixture was then refluxed for 16 h. On completion, water was added, and the product extracted with ethyl acetate. The organic layer was dried over sodium sulphate and the product was purified by silica gel column to afford the title compound (1.0 g, 83%)

reactant | methyl 3-bromo-5-chloro-2-methylbenzoate | 3.79 mmol, 1.0 g | BrC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C9H8BrClO2
reactant | N,N-diisopropyl ethylamine | 7.59 mmol, 0.98 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Xanthphos | 0.38 mmol, 0.22 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cyclohexylthiol | 3.79 mmol, 0.44 g | C1CCC(CC1)S | C6H12S
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.189 mmol, 0.042 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 5-chloro-3-(cyclohexylthio)-2-methylbenzoate | 1.0 g, 83% | ClC=1C=C(C(=C(C(=O)OC)C1)C)SC1CCCCC1 | C15H19ClO2S
